US04051248
1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-6-methoxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride (1:1)
1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-6-methoxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]-decan-4-one (2.5 g) is suspended in 100 ml of anhydrous ether and treated with one equivalent of etheral hydrogen chloride. The resulting mixture is stirred at room temperature for one hour and then cooled. The precipitate is collected and washed with additional ether to yield 2.1 g of the title compound, melting point 243°-244° C.

reactant | 1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-6-methoxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]-decan-4-one | 2.5 g | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C[C@@H]2[C@@H](C1=CC=C(C=C1CC2)OC)O)=O | C25H31N3O3
reactant | hydrogen chloride | one equivalent | Cl | ClH
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-6-methoxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride | 2.1 g | Cl.C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C[C@@H]2[C@@H](C1=CC=C(C=C1CC2)OC)O)=O | InChI=1S/C25H31N3O3.ClH/c1-31-21-9-10-22-18(15-21)7-8-19(23(22)29)16-27-13-11-25(12-14-27)24(30)26-17-28(25)20-5-3-2-4-6-20;/h2-6,9-10,15,19,23,29H,7-8,11-14,16-17H2,1H3,(H,26,30);1H/t19-,23+;/m1./s1
